US04208513
158.5 g of 2-(4'-chloromethylphenyl)-7-chlorobenzoxazole (produced by condensation of 2-amino-6-chlorophenol with 4-chloromethyl-benzoyl chloride and subsequent cyclisation in o-dichlorobenzene in the presence of p-toluenesulfonic acid, melting point 141° to 142° C.) is heated with 400 ml of triethyl phosphite in the course of 2 hours at 155° C., and the mixture is subsequently stirred at 155° to 158° C. for a further 7 hours. After cooling to 90° C., the unreacted triethyl phosphite is distilled off in vacuo. The reaction product, which is still oily, is stirred into 1000 ml of petroleum ether, and after a short time crystallisation occurs. The product is filtered off, washed with petroleum ether and dried. The yield is 210 g (97% of theory) of 2-(4'-diethylphosphonomethylphenyl)-7-chlorobenzoxazole having a melting point of 92° to 93° C.

reactant | 2-amino-6-chlorophenol | NC1=C(C(=CC=C1)Cl)O | C6H6ClNO
reactant | 4-chloromethyl-benzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-(4'-chloromethylphenyl)-7-chlorobenzoxazole | 158.5 g | ClCC1=CC=C(C=C1)C=1OC2=C(N1)C=CC=C2Cl | C14H9Cl2NO
